US07696231B2
a) Preparation of methyl 4-{[(3-nitrobenzoyl)amino]methyl}benzoate (Sheme 2, compound C)
Under an inert atmosphere, to a stirred solution of methyl 4-(aminomethyl)benzoate (50 g, 0.436 mol) and TEA (210 mL, 1.5 mol) in anhydrous DCM (1.0 L) was added a solution of freshly prepared 3-nitro benzoyl chloride (0.59 mol) in DCM (250 mL). The resulting mixture was allowed to stir for 2 hrs. The reaction was quenched with a 10% aqueous solution of sodium hydrogenocarbonate. The organic layer was washed with a 1.5N HCl solution and water. After drying over MgSO4 and evaporation of the solvent in vacuo, a solid was obtained and purified by flash chromatography to give the title compound (50 g) in a 52% yield as a white powder.

reactant | methyl 4-(aminomethyl)benzoate | 0.436 mol, 50 g | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | 3-nitro benzoyl chloride | 0.59 mol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | DCM | 1.0 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-{[(3-nitrobenzoyl)amino]methyl}benzoate | 50 g, 52% yield | [N+](=O)([O-])C=1C=C(C(=O)NCC2=CC=C(C(=O)OC)C=C2)C=CC1 | C16H14N2O5
